US04218458
A mixture of 5 parts of N-[2-(4-methoxyphenyl)-1,3-dioxolan-2-ylmethyl]-N'-propylthiourea, 3.5 parts of iodomethane and 60 parts of ethanol is stirred and heated for 2 hours at about 50° C. The reaction mixture is evaporated and the oily residue is crystallized from ethyl acetate. The product is filtered off and dried, yielding 5.5 parts of methyl N-[2-(4-methoxyphenyl)-1,3-dioxolan-2-ylmethyl]-N'-propylcarbamimidothioate monohydroiodide; mp. 91.2° C.

reactant | N-[2-(4-methoxyphenyl)-1,3-dioxolan-2-ylmethyl]-N'-propylthiourea | COC1=CC=C(C=C1)C1(OCCO1)CNC(=S)NCCC | C15H22N2O3S
reactant | iodomethane | IC | CH3I
solvent | ethanol | C(C)O | C2H6O
product | methyl N-[2-(4-methoxyphenyl)-1,3-dioxolan-2-ylmethyl]-N'-propylcarbamimidothioate monohydroiodide | I.COC1=CC=C(C=C1)C1(OCCO1)CNC(=NCCC)SC | InChI=1S/C16H24N2O3S.HI/c1-4-9-17-15(22-3)18-12-16(20-10-11-21-16)13-5-7-14(19-2)8-6-13;/h5-8H,4,9-12H2,1-3H3,(H,17,18);1H
